US07262185B2
4-methyl-3-[(4-nitrophenyl)thio]-1,2,4-triazole (1.0 g), reduced iron (1.18 g) and calcium chloride (2.35 g) were added to 85% aqueous solution of ethanol (15 ml), and the mixture was stirred for 6 hours under nitrogen atmosphere at 105° C. The mixture was allowed to be at room temperature, the insolubles were filtered off, and the solvent was distilled off under reduced pressure. To the obtained residue were added water, and the mixture extracted with ethyl acetate twice. The organic layer was dried over magnesium sulfate, and the solvent was distilled off under reduced pressure. The obtained residue was recrystallized from ethyl acetate-diisopropyl ether, to give 3-[(4-aminophenyl)thio]-1-methyl-1,2,4-triazole (418 mg) as yellow crystals.

reactant | 4-methyl-3-[(4-nitrophenyl)thio]-1,2,4-triazole | 1.0 g | CN1C(=NN=C1)SC1=CC=C(C=C1)[N+](=O)[O-] | C9H8N4O2S
reactant | calcium chloride | 2.35 g | [Cl-].[Ca+2].[Cl-]
reactant | ethanol | 15 ml | C(C)O | C2H6O
product | 3-[(4-aminophenyl)thio]-1-methyl-1,2,4-triazole | 418 mg | NC1=CC=C(C=C1)SC1=NN(C=N1)C | C9H10N4S
